US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenyloxyethyl)-methylamine
Here, 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane (18.5 g, 0.0623 mol) is heated to 110° C. for 2 hours in an autoclave with N-(2-phenyloxyethyl)-methylamine (10.3 g, 0.0623 mol) and triethylamine (8.7 ml, 0.062 mol). After cooling, the reaction mixture is distributed between methylene chloride and water, the organic phase is separated off, dried over sodium sulfate and concentrated by evaporation. The residue is purified by chromatography on silica gel (eluant: methylene chloride/methanol=9/1). The base thus obtained is converted into the hydrochloride in the usual way.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | 0.0623 mol, 18.5 g | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-(2-phenyloxyethyl)-methylamine | 0.0623 mol, 10.3 g | C1(=CC=CC=C1)OCCNC | C9H13NO
reactant | triethylamine | 0.062 mol, 8.7 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenyloxyethyl)-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCOC2=CC=CC=C2)C)=O)C=C1OC | C24H32N2O4
